US09108939B2
E: 4-(3-(Cyclopropylmethyl)ureido)-N-(1-(3-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-N-methylbenzamide
2-(3-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (84 mg, 0.249 mmol) was added to a solution of 4-(3-(cyclopropylmethyl)ureido)-N-methyl-N-(piperidin-4-yl)benzamide (82 mg, 0.249 mmol), sodium iodide (15 mg, 0.100 mmol), and potassium carbonate (103 mg, 0.748 mmol) in acetonitrile (3 mL) and the solution was stirred at ambient temperature overnight. The reaction mixture was concentrated under vacuum, dissolved in dichloromethane, washed with water, and purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 3.5% methanol/96.5% dichloromethane) to afford the title compound (57 mg).

reactant | 2-(3-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.249 mmol, 84 mg | BrCC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | 4-(3-(cyclopropylmethyl)ureido)-N-methyl-N-(piperidin-4-yl)benzamide | 0.249 mmol, 82 mg | C1(CC1)CNC(NC1=CC=C(C(=O)N(C2CCNCC2)C)C=C1)=O | C18H26N4O2
reactant | sodium iodide | 0.100 mmol, 15 mg | [I-].[Na+]
reactant | potassium carbonate | 0.748 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 4-(3-(Cyclopropylmethyl)ureido)-N-(1-(3-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)-N-methylbenzamide | 57 mg | C1(CC1)CNC(NC1=CC=C(C(=O)N(C)C2CCN(CC2)CC2=CC(=CC=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)=O | C28H32F6N4O3
